Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Left leg cellulitis
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
The patient is an ___ year old male with PMH of hypothyroidism, 
GERD, BPH, s/p squamos cell cancer removal from left shin in 
___ with subsequent surgical site cellulitis that has failed 
outpatient oral antibiotics with recent wound culture growing 
pseudomonas. He has been treated with Keflex and Cipro without 
complete resolution of his infection. A recent qound cultures 
from the beginning ___ grew out pseudomonas and he was 
therefore referred for admission for IV abx therapy. He has had 
some chills and malaise at home recently with multiple cultures 
pending in the ___ computer records.
.
In the ED, initial VS 98.3 77 150/83 18 96% RA. Exam notable for 
erythema and warmth on left shin surrounding surgical site. The 
patient was given Levaquin 750mg IV in the ED as the pseudomonas 
cultured from the wound was sensitive to amikacin, ceftazidime, 
cipro, gentamicin, imipenem, and levofloxacin. Most recent 
vitals: 97.9, 80, 154/85,18,100%ra.
.
ROS: Denies fever, headache, vision changes, rhinorrhea, 
congestion, sore throat, cough, shortness of breath, chest pain, 
abdominal pain, nausea, vomiting, diarrhea, constipation, BRBPR, 
melena, hematochezia, dysuria, hematuria.

 
Past Medical History:
-Hypothyroidism  
-GERD  
-BPH  
-s/p squamos cell cancer removal from left shin in ___ with 
subsequent surgical site cellulitis with wound culture growing 
pseudomonas

 
Social History:
___
Family History:
Non-contributory
 
Physical Exam:
PHYSICAL EXAM ON ADMISSION:
VS: T=98.1, BP=140/80, HR=77, 20, 99% RA
GENERAL: Well-appearing man in NAD, comfortable, appropriate.
HEENT: NC/AT, PERRLA, EOMI, sclerae anicteric, MMM, OP clear.
NECK: Supple, no JVD.
HEART: RRR, no MRG, nl S1-S2.
LUNGS: CTA bilat, no r/rh/wh, good air movement, resp unlabored.
ABDOMEN: Soft/NT/ND, no rebound/guarding.
EXTREMITIES: WWP, no c/c/e.
SKIN: Left lower extremity surgical site surrounded by a ring of 
warmth and erythema that was demarcated with a marker.
NEURO: Awake, A&Ox3, CNs II-XII grossly intact, muscle strength 
___ throughout, sensation grossly intact throughout.
.
PHYSICAL EXAM ON DISCHARGE:
VS: T 97.0, BP 143/86, HR 76, RR 18, SpO2 100% on RA
Gen: NAD. Alert and oriented x3. Pleasant and cooperative. 
Appears well and younger than stated age. Ambulating in room.
HEENT: NCAT. PERRL, EOMI, anicteric sclera. MMM, OP benign.
Neck: Supple. JVP not elevated. No cervical lymphadenopathy.
CV: RRR. Normal S1, S2. No M/R/G appreciated.
Chest: Respiration unlabored, no accessory muscle use. Lungs 
CTAB. No wheezes, rhonchi, or rales.
Abd: BS present. Soft, NT, ND. No HSM detected.
Ext: WWP, no cyanosis or clubbing. No ___ edema. Digital cap 
refill <2 sec. Distal pulses radial 2+, DP 2+, ___ 2+.
Skin: Skin ulcer 2 cm in diameter on left lateral shin with some 
mild surrounding erythema. No tenderness or fluctuance. The 
involved area is well within the markings from admission.
Neuro: CN II-XII grossly intact. Moving all four limbs.

 
Pertinent Results:
LABORATORY RESULTS:
___ 04:31PM BLOOD WBC-3.8* RBC-4.70 Hgb-14.4 Hct-42.2 
MCV-90 MCH-30.6 MCHC-34.1 RDW-13.8 Plt ___
___ 04:31PM BLOOD Neuts-73.4* ___ Monos-5.2 Eos-1.3 
Baso-0.7
___ 06:05AM BLOOD WBC-3.7* RBC-4.24* Hgb-12.9* Hct-37.6* 
MCV-89 MCH-30.5 MCHC-34.3 RDW-13.8 Plt ___
___ 05:35AM BLOOD WBC-4.0 RBC-4.25* Hgb-13.7* Hct-38.5* 
MCV-91 MCH-32.2* MCHC-35.5* RDW-14.0 Plt ___
.
___ 04:31PM BLOOD Glucose-109* UreaN-10 Creat-1.0 Na-133 
K-4.5 Cl-97 HCO3-26 AnGap-15
___ 06:05AM BLOOD Glucose-84 UreaN-10 Creat-0.9 Na-133 
K-4.1 Cl-98 HCO3-27 AnGap-12
___ 05:35AM BLOOD Glucose-99 UreaN-13 Creat-0.9 Na-134 
K-3.9 Cl-101 HCO3-25 AnGap-12
.
___ 06:05AM BLOOD Calcium-8.6 Phos-2.9 Mg-1.9
___ 05:35AM BLOOD Calcium-8.8 Phos-2.6* Mg-2.0
___ 04:39PM BLOOD Lactate-1.0
.
___ 04:31PM URINE Color-Yellow Appear-Clear Sp ___
___ 04:31PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-NEG
.
MICROBIOLOGY:
___ 4:31 pm BLOOD CULTURE (Final ___: NO GROWTH.
___ 6:20 pm BLOOD CULTURE (Final ___: NO GROWTH.
.
IMAGING / STUDIES:
# CHEST PORT. LINE PLACEMENT ___ at 11:49 AM):
Tip of the new right PIC line projects over the low SVC. There 
is no pneumothorax, pleural effusion, or mediastinal widening. 
Lung volumes are lower today and crowding of vessels would 
explain increased radiodensity at the lung bases. Heart size 
normal. Vascular clips denote prior surgery in the left neck.
.

 
Brief Hospital Course:
The patient is an ___ year old male with hypothyroidism, GERD, 
and BPH who presents s/p squamous cell carcinoma removal from 
his left shin on ___ with subsequent surgical site 
cellulitis that has failed outpatient oral antibiotics and wound 
culture on ___ growing pan sensitive Pseudomonas.
.
# Cellulitis: Wound culture of the cellulitis from ___ in 
At___ records grew pan-sensitive Pseudomonas, but the patient 
failed courses of oral Keflex and Cipro at home.  He was given a 
dose of Levofloxacin in the ED, and admitted for initiation of 
IV antibiotics.  On reaching the floor, he was switched to 
Meropenem 500 mg IV Q6H. His cellulitis improved visibly 
overnight on the IV antibiotics.  In anticipation of discharge 
home with home infusion services, he was switched to Cefepime 2 
grams IV Q24H which is renal dosing given his age.  A PICC line 
was placed on ___ without complications.  His cellulitis 
appeared to improved during his stay, he remained afebrile, and 
appeared well.  He was discharged with a planned two week total 
course of Cefepime 2 grams IV Q24H.  A followup appointment was 
arranged with his PCP for safety labs and evaluation of the 
cellulitis.
.
# Hypothyroidism: He was continued on his home Levothyroxine 112 
mcg PO daily.
.
# GERD: He was continued on his home Omeprazole 20 mg PO BID.
.
# BPH: He was continued on his home Terazosin 10 mg PO QHS.
.
# DVT Prophylaxis: Heparin 5000 units SC TID
.
# Transitional Care:
-- PCP followup on ___ for safety labs and evaluation of 
cellulitis treatment progress.

 
Medications on Admission:
-Levothyroxine 112 mcg PO daily
-Omeprazole 20 mg PO BID
-Terazosin 10 mg PO QHS
-Tylenol PRN
-Colace
-Metamucil

 
Discharge Medications:
1. cefepime 2 gram Recon Soln Sig: One (1) Recon Soln Injection 
Q24H (every 24 hours) for 12 days.
Disp:*12 Recon Soln(s)* Refills:*0*
2. levothyroxine 112 mcg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
3. omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO BID (2 times a day).  
4. terazosin 10 mg Capsule Sig: One (1) Capsule PO at bedtime.  
5. acetaminophen 325 mg Tablet Sig: Two (2) Tablet PO TID (3 
times a day) as needed for pain.  
6. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).  
7. psyllium     Packet Sig: One (1) Packet PO DAILY (Daily).  
8. Outpatient Lab Work
Please draw blood on ___ and check CBC/diff, Chem7, and 
liver panel.  Please forward results to Dr ___ (Phone: 
___, Fax: ___.

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary Diagnoses:
Left Leg Cellulitis

Secondary Diagnoses:
Squamous Cell Carcinoma (resected)
Hypothyroidism

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the hospital for evaluation and treatment 
of a left leg ulcer and cellulitis that was not healing properly 
on oral antibiotics.  Wound cultures from a few weeks ago grew a 
type of bacteria called Pseudomonas.  In the hospital, you were 
started on IV antibiotics and your leg infection started to 
improve.  A special type of IV called a PICC line was placed so 
that you could receive IV antibiotics at home.  You were started 
on an IV antibiotic that covers the type of bacteria growing in 
the wound and can be taken once daily.  Home infusion services 
were arranged.  You will need to take the antibiotics for 12 
more days in order to complete a two week course.  Once the 
antibiotic course is completed, the PICC line will be removed.

START: Cefepime 2 grams IV daily for 12 days

None of your other home medications were changed.  You should 
continue taking them as previously prescribed and as indicated 
on your discharge medication sheet.

You will need close followup with your PCP after discharge.  An 
appointment has been arranged for you, and details are below.  
Prior to this visit, you will need to have blood drawn for lab 
work to make sure everything is working properly with the 
antibiotics.

 
Followup Instructions:
___